US06596900B2
(1RS,6SR)-8,8-Dichlorobicyclo[4.2.0]octan-7-one
Copper (II) sulphate (2.0 g, 8.0 mmol) was dissolved in water (75 ml) and added to zinc dust (30 g). The mixture was stirred for 2 hours. The mixture was filtered and the solid collected, washed twice with acetone and dried under vacuum at 100° C. for 24 hrs. A portion of the activated zinc (8.0 g) was added to a solution of cyclohexene (10 ml, 98.9 mmol) in diethyl ether (180 ml). Trichloroacetyl chloride (10.48 ml, 93.96 mmol) in diethyl ether (20 ml) was added at such a rate to keep the mixture at reflux. After the addition was complete, the mixture was heated to reflux for 4 hrs. The mixture was cooled to room temperature, diluted with diethyl ether (50 ml) and carefully poured into an aqueous saturated solution of sodium bicarbonate. The mixture was acidified with 2N HCl and the organic phase separated. The ether extract was washed with water and then with saturated aqueous sodium bicarbonate. The organic phase was collected, dried (MgSO4) and the solvent removed under reduced pressure. The residue was purified by flash chromatography (silica, EtOAc:Heptane 1:9) to give 8.62 g of the title compound as a clear oil.

reactant | cyclohexene | 98.9 mmol, 10 ml | C1=CCCCC1 | C6H10
reactant | Trichloroacetyl chloride | 93.96 mmol, 10.48 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 75 ml | O | H2O
solvent | diethyl ether | 180 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | Copper (II) sulphate | 8.0 mmol, 2.0 g | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | zinc | 30 g | [Zn] | Zn
catalyst | zinc | 8.0 g | [Zn] | Zn
product | (1RS,6SR)-8,8-Dichlorobicyclo[4.2.0]octan-7-one | 8.62 g | ClC1(C(C2CCCCC12)=O)Cl | C8H10Cl2O
